US04837242
1.14 g (4.08 mmol) of N-(1,1-dimethyl-4-indanyl)-2-chloroacetoacetamide and 0.30 g (4.08 mmol) of thioacetamide were dissolved in 10 ml of tetrahydrofuran and was refluxed for 3 hours. To the reaction mixture was added 0.56 g (4.08 mmol) of anhydrous potassium carbonate and reaction was effected for 4 hours under reflux. The resulting solution was added to water and extracted with ethyl acetate. The organic layer was concentrated and then purified by column chromatography (eluent; n-hexane:ethyl acetate=50:50 V/V) to obtain 0.52 g of N-(1,1-dimethyl-4-indanyl)-2,4-dimethylthiazole-5-carboxamide (yield 43%).

reactant | N-(1,1-dimethyl-4-indanyl)-2-chloroacetoacetamide | 4.08 mmol, 1.14 g | CC1(CCC2=C(C=CC=C12)NC(C(C(=O)C)Cl)=O)C | C15H18ClNO2
reactant | thioacetamide | 4.08 mmol, 0.30 g | C(C)(=S)N | C2H5NS
reactant | potassium carbonate | 4.08 mmol, 0.56 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-(1,1-dimethyl-4-indanyl)-2,4-dimethylthiazole-5-carboxamide | 0.52 g, yield 43% | CC1(CCC2=C(C=CC=C12)NC(=O)C1=C(N=C(S1)C)C)C | C17H20N2OS
